Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Generalized abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ y/o G2P2 ___ s/p laparoscopic ovarian cystectomy 
for suspected dermiod cysts. There were omental adhesions noted 
intra-operatively which was taken down with monopolar scissors. 
She reports that since 1am, despite taking
pain medications, she began to have generalized abdominal pain. 
She reports that her pain is unrelieved with pain medications. 
She reports pain with movement and with walking. 

She reports some nausea early this evening though none now. She 
denies any episodes of emesis. She denies passing flatus or a 
bowel movement since her surgery.

She reports some dysuria, though no increasing frequency. She 
reports scant vaginal spotting.

At the time of evaluation, the patient had taken 10mg of 
oxycodone at 5am, and 4mg of IV morphine. 

 
Past Medical History:
Medical History:  Hypertension, Hypothryroid, Menorrhagia r/t
adenomyosis. 
 
OB History:  Total pregnancies  Total Preg.  2. Total living
children  Living  2. C section(s)  2.   
 
Surgical History: cesarean section w/BTL and fibroid removal
___, laparoscopic ovarian cystectomy on ___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
LABS:
====
___ 07:40AM BLOOD WBC-10.1* RBC-3.26* Hgb-9.0* Hct-28.0* 
MCV-86 MCH-27.6 MCHC-32.1 RDW-14.3 RDWSD-44.4 Plt ___
___ 07:45AM BLOOD WBC-10.9* RBC-3.15* Hgb-8.6* Hct-27.3* 
MCV-87 MCH-27.3 MCHC-31.5* RDW-14.6 RDWSD-46.0 Plt ___
___ 12:06AM BLOOD WBC-13.3* RBC-3.19* Hgb-8.8* Hct-27.3* 
MCV-86 MCH-27.6 MCHC-32.2 RDW-14.4 RDWSD-45.3 Plt ___
___ 07:10PM BLOOD WBC-13.5* RBC-3.27* Hgb-9.1* Hct-28.0* 
MCV-86 MCH-27.8 MCHC-32.5 RDW-14.4 RDWSD-45.1 Plt ___
___ 04:55PM BLOOD WBC-14.0* RBC-3.78* Hgb-10.5* Hct-32.8* 
MCV-87 MCH-27.8 MCHC-32.0 RDW-14.6 RDWSD-46.5* Plt ___
___ 02:40PM BLOOD WBC-12.9* RBC-3.27* Hgb-9.1* Hct-28.4* 
MCV-87 MCH-27.8 MCHC-32.0 RDW-14.5 RDWSD-46.4* Plt ___
___ 08:40AM BLOOD WBC-17.1*# RBC-4.19 Hgb-11.5 Hct-35.7 
MCV-85 MCH-27.4# MCHC-32.2 RDW-14.4 RDWSD-44.5 Plt ___
___ 08:40AM BLOOD Neuts-72.7* ___ Monos-6.8 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-12.41*# AbsLymp-3.32 
AbsMono-1.16* AbsEos-0.04 AbsBaso-0.03
___ 07:38PM BLOOD ___
___ 08:40AM BLOOD Glucose-116* UreaN-16 Creat-1.0 Na-135 
K-3.9 Cl-97 HCO3-23 AnGap-19
___ 12:00PM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:00PM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 12:00PM URINE RBC-1 WBC-44* Bacteri-FEW Yeast-NONE 
Epi-7
___ 12:00PM URINE CastHy-39*
___ 12:00PM URINE Mucous-MANY

MICROBIOLOGY:
============
___ - UCx + E.coli, R to Ampicillin and 
Ampicillin/Sulbactam, S to macrobid

IMAGING:
=======
___ CT A/P:
IMPRESSION: 
1. Moderate to large hemoperitoneum, with a focus of ill-defined 
venous 
enhancement within a more focal hematoma in the surgical bed in 
the left 
hemipelvis, concerning for a venous source of ongoing bleeding.  
No evidence 
of active arterial extravasation. 
2. Hepatic steatosis. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service for observation of generalized abdominal pain on ___ 
s/p LSC ovarian cystectomy for dermoid cysts, found to have 
hemoperitoneum and acute anemia from surgical bleeding.

During this admission, she remained hemodynamically stable. She 
underwent serial abdominal exams which were unchanged. Her hct 
was trended to be stable at 28. She was kept NPO/IVF upon 
admission and was gradually advanced without difficulty given 
her clinical stability. Her pain was well controlled on PO 
oxycodone and acetaminophen. UA and UCx were sent due to her c/o 
dysuria upon admission. UA contained 7 epithelial cells, 
negative nitrites, large leukocyte esterase. UCx returned 
positive for E. coli, sensitive to nitrofurantoin. 

By HD2, she was hemodynamically stable with a stabilized 
hematocrit, tolerating a regular diet, voiding spontaneously, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled and a 7 day course of 
nitrofurantoin. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Enalapril Maleate 5 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*20 Tablet Refills:*0 
4.  Enalapril Maleate 5 mg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemoperitoneum from surgical bleeding s/p LSC ovarian cystectomy 
for dermoid cysts

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service for observation of 
surgical bleeding after your procedure on ___. You have 
recovered well and the team believes you are ready to be 
discharged home. Please call the ___ office with any 
questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___